US07964607B2
1-isopropyl-6-[(3S,4S)-4-methyl-1-(pyrido[2,3-b]pyrazin-8-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and pyrido[2,3-b]pyrazine-8-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 10.00 (brs, 1H), 9.16-9.10 (m, 3H), 8.00 (s, 1H), 7.78 (m, 1H), 5.00-4.97 (m, 1H), 4.63-4.58 (m, 1H), 4.34-4.18 (m, 1H), 3.30 (m, 1H), 3.27 (m, 1H), 2.92-2.77 (m, 2H), 2.49-2.38 (m, 1H), 2.09-1.97 (m, 1H), 1.48 (dd, J=10.8, 6.6 Hz, 6H), 1.20 (d, J=6.6 Hz, 3H). MS: (M+H m/z 405.2).

reactant | 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C13H19N5O
reactant | pyrido[2,3-b]pyrazine-8-carbaldehyde | N1=C2C(=NC=C1)N=CC=C2C=O | C8H5N3O
product | 1-isopropyl-6-[(3S,4S)-4-methyl-1-(pyrido[2,3-b]pyrazin-8-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=CC=NC1=NC=CN=C12 | C21H24N8O
